US06610518B2
Preparation of 5-amino-3-(2-methoxyethoxy)-1-methyl-4-(4-methylphenyl)-1H-pyrazole
5-amino-1-methyl-4-(4-methylphenyl)-1H-pyrazol-3-ol (Preparation 11) (305 mg) was dissolved in dimethylformamide (2 ml), potassium carbonate (622 mg) and 2-bromoethyl methyl ether (208 mg) were added. The reaction was stirred at room temperature for 1.5 hours and then at 50° C. for 12 hours. The solvent was removed under reduced pressure. The crude product was purified on silica (10 g) eluted with a solvent gradient of pentane:ethyl acetate (1:0 to 0:1) to yield the title compound as a white solid (201 mg).

reactant | 5-amino-1-methyl-4-(4-methylphenyl)-1H-pyrazol-3-ol | 305 mg | NC1=C(C(=NN1C)O)C1=CC=C(C=C1)C | C11H13N3O
reactant | potassium carbonate | 622 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethyl methyl ether | 208 mg | COCCBr | C3H7BrO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-amino-3-(2-methoxyethoxy)-1-methyl-4-(4-methylphenyl)-1H-pyrazole | 201 mg | NC1=C(C(=NN1C)OCCOC)C1=CC=C(C=C1)C | C14H19N3O2
